US08865726B2
To a solution of (S)-4-(5-fluoropyridin-2-yl)oxazolidin-2-one (4.3 g, 24 mmol) in DMF (75 mL) was added sodium hydride (0.94 g, 24 mmol) in portions and the reaction stirred for 15 minutes at room temperature, followed by the addition of 3-bromo-5-chloropyrazolo[1,5-a]pyrimidine (5.5 g, 24 mmol) in a solution of DMF (50 mL) and the reaction was stirred for an additional 1 hour. The reaction was poured into water (400 mL) and extracted into ether (400 mL). The water layer was separated and washed with ether (200 mL). The combined organic layers were washed with water (100 mL) and brine (200 mL), dried over MgSO4 and concentrated in vacuo. The crude material was chromatographed using 15% EtOAc/DCM as eluent to yield (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-(5-fluoropyridin-2-yl)oxazolidin-2-one (6.7 g, 18 mmol, 75% yield).

reactant | (S)-4-(5-fluoropyridin-2-yl)oxazolidin-2-one | 24 mmol, 4.3 g | FC=1C=CC(=NC1)[C@@H]1NC(OC1)=O | C8H7FN2O2
reactant | sodium hydride | 24 mmol, 0.94 g | [H-].[Na+]
reactant | 3-bromo-5-chloropyrazolo[1,5-a]pyrimidine | 24 mmol, 5.5 g | BrC=1C=NN2C1N=C(C=C2)Cl | C6H3BrClN3
reactant | water | 400 mL | O | H2O
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-(5-fluoropyridin-2-yl)oxazolidin-2-one | 18 mmol, 6.7 g, 75% yield | BrC=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=NC=C(C=C2)F)=O | C14H9BrFN5O2
